US05719183
c) (1RS,2RS,3RS)-2-Hydroxymethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane
To a solution of methyl (1RS,2SR,3RS)-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (4.45 g, 8.5 mmol) in THF (35 ml) stirred at 0° C. was added lithium aluminum hydride (17 ml of a 1M solution in THF). The cooling bath was removed and stirring continued for 18 h. The reaction was quenched by addition of saturated aqueous ammonium chloride solution then partitioned between EtOAc and 3N HCl. The organic extract was washed with H2O, saturated NaHCO3 solution, H2O, then brine, dried (Na2SO4) and solvent removed in vacuo to afford the title compound as an oil (4.13 g, 98%).

reactant | methyl (1RS,2SR,3RS)-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 8.5 mmol, 4.45 g | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC)OCOC | C30H32O8
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | (1RS,2RS,3RS)-2-Hydroxymethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 4.13 g, 98% | OCC1C(C2=CC=C(C=C2C1C1=C(C=C(C=C1)OC)OCOC)OCCC)C1=CC2=C(C=C1)OCO2 | C29H32O7
